US04616017
To 1-(3-fluoro-2-pyridyl)piperazine (453 mg, 2.5 mmol) in 5 ml of isopropanol stirred under nitrogen at 70° C. was added 4-chlorophenoxy-2,3-epoxypropane (476 mg, 2.5 mmol) portionwise and the solution stirred at 70° C. for 3 hours The solution was concentrated in vacuo and the residual oil chromatographed on silica gel eluting with 5% methanol-chloroform to yield 740 mg (81%) of 1-[3-(4-chlorophenoxy)-2-hydroxypropyl]-4-(3-fluoro-2-pyridyl]piperazine; m.p. 73°-76° C. Analysis satisfactory for C18H21ClFN3O2.

reactant | 1-(3-fluoro-2-pyridyl)piperazine | 2.5 mmol, 453 mg | FC=1C(=NC=CC1)N1CCNCC1 | C9H12FN3
reactant | 4-chlorophenoxy-2,3-epoxypropane | 2.5 mmol, 476 mg | ClC1=CC=C(OCC2CO2)C=C1 | C9H9ClO2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 1-[3-(4-chlorophenoxy)-2-hydroxypropyl]-4-(3-fluoro-2-pyridyl]piperazine | 740 mg, 81% | ClC1=CC=C(OCC(CN2CCN(CC2)C2=NC=CC=C2F)O)C=C1 | C18H21ClFN3O2
